US07074798B2
a) (7-Benzyl-2,6-dioxo-1,2,6,7-tetrahydropurin-3-yl)acetic acid ethyl ester
A mixture of 7-benzyl-3,7-dihydropurine-2,6-dione (3.0 g), anhydrous potassium carbonate (2.0 g), and N,N-dimethylformamide (60 ml) was stirred with heating in an oil bath of 40° C., and ethyl bromoacetate (1.5 g) was added thereto. The mixture was stirred by heating at the same temperature for 4 hours. The reaction mixture was diluted with ethyl acetate and water, and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography using 20–40% (20% 2-propanol/ethyl acetate)/hexane to give 1.3 g of the title compound.

reactant | 7-benzyl-3,7-dihydropurine-2,6-dione | 3.0 g | C(C1=CC=CC=C1)N1C=NC=2NC(NC(C12)=O)=O | C12H10N4O2
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
reactant | ethyl bromoacetate | 1.5 g | BrCC(=O)OCC | C4H7BrO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (7-Benzyl-2,6-dioxo-1,2,6,7-tetrahydropurin-3-yl)acetic acid ethyl ester | 1.3 g | C(C)OC(CN1C(NC(C=2N(C=NC12)CC1=CC=CC=C1)=O)=O)=O | C16H16N4O4
